US06881733B1
1-benzyl-3,3-dimethyl-4-hydroxypiperidine
A solution of 0.30 gm (1.3 mMol) 1-benzyl-2,4-dioxo-3,3-dimethylpiperidine in 5 mL tetrahydrofuran was stirred at room temperature as 2 mL (2 mMol) lithium aluminum hydride (2M in tetrahydrofuran) was added dropwise. The reaction mixture was then heated to reflux for 3 hours. The reaction mixture was then allowed to cool to room temperature. After stirring at room temperature for about 16 hours, the reaction mixture was cooled in an ice bath and treated sequentially with 0.5 mL water, 0.5 mL 5N sodium hydroxide, and 0.5 mL water with vigorous stirring. The resulting slurry was diluted with dichloromethane and anhydrous sodium sulfate was added. The slurry was filtered and the filter cake washed with dichloromethane. The combined filtrates were concentrated under reduced pressure and the residue subjected to silica gel chromatography, eluting with dichloromethane containing from 0-10% methanol containing 0.1% ammonium hydroxide. Fractions containing product were combined and concentrated under reduced pressure to provide 0.25 gm (88%) of the desired compound.

reactant | 1-benzyl-2,4-dioxo-3,3-dimethylpiperidine | 1.3 mMol, 0.30 gm | C(C1=CC=CC=C1)N1C(C(C(CC1)=O)(C)C)=O | C14H17NO2
reactant | lithium aluminum hydride | 2 mMol, 2M, 2 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.5 mL | O | H2O
reactant | sodium hydroxide | 5N, 0.5 mL | [OH-].[Na+]
reactant | water | 0.5 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
product | 1-benzyl-3,3-dimethyl-4-hydroxypiperidine | 0.25 gm, 88% | C(C1=CC=CC=C1)N1CC(C(CC1)O)(C)C | C14H21NO
